US08252792B2
To a solution of 4-bromo-2-nitrotoluene (3.0 g, 13.9 mmol) in THF (40 mL) at −40° C. was added vinyl magnesium bromide (48.6 mmol, 48.6 mL; 1.0 M in THF) dropwise over 15 minutes and the mixture stirred at −40° C. for 1.5 hours. The reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acetate. The combined organic layers were washed with brine, separated and dried (MgSO4). The residue was evaporated and purified by column chromatography to yield 4-bromo-7-methylindole (1.03 g).

reactant | 4-bromo-2-nitrotoluene | 13.9 mmol, 3.0 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | vinyl magnesium bromide | 48.6 mmol, 1.0 M, 48.6 mL | C(=C)[Mg]Br
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-bromo-7-methylindole | 1.03 g | BrC1=C2C=CNC2=C(C=C1)C | C9H8BrN
